US07019146B1
With reference to EXAMPLE 1-2, 4.5 mg (0.014 mmol) of iodobenzene diacetate was added to a mixture of 5 mg (0.017 mmol) of 4-ferrocenylurazole and 0.25 mL of tetrahydrofuran at room temperature, followed by stirring for an hour. Thus, the tetrahydrofuran solution of 4-ferrocenyl-1,2,4-triazoline-3,5-dione was obtained. A tetrahydrofuran (0.25 mL) solution of 1 mg (0.0025 mmol) of alfacalcidol prepared in accordance with the method described in Japanese Patent Publication (KOKAI) No. 48-62750, Tetrahedron Lett., 1973, 2339 and Tetrahedron, 30, 2701 (1974) was added to the solution obtained. The mixture was stirred at room temperature for an hour. The reaction mixture was concentrated under reduced pressure and the residue obtained was purified by thin layer silica gel chromatography (hexane:ethyl acetate=1:2) to give 1 mg (57%) of the titled alfacalcidol/4-ferrocenyl-1,2,4-triazoline-3,5-dione adduct (ALF-FTAD) as a yellow oily substance.

reactant | iodobenzene diacetate | 0.014 mmol, 4.5 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | 4-ferrocenylurazole | 0.017 mmol, 5 mg | [C-]1(C=CC=C1)N1C(NNC1=O)=O.[CH-]1C=CC=C1.[Fe+2]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 mL | O1CCCC1 | C4H8O
product | 4-ferrocenyl-1,2,4-triazoline-3,5-dione | [C-]1(C=CC=C1)N1C(N=NC1=O)=O.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C7H4N3O2.C5H5.Fe/c11-6-8-9-7(12)10(6)5-3-1-2-4-5;1-2-4-5-3-1;/h1-4H;1-5H;/q2*-1;+2
